* ch05_03_cascode_current_mirror: self-biased cascode current mirror
.include ../../models/educational_cmos.inc
Vdd vdd 0 {VDD}
Iref vdd ref_top DC 80u
Vout out 0 DC 1.2
M1 ref_mid ref_mid 0 0 NMOS W=10u L=0.18u
M3 ref_top ref_top ref_mid 0 NMOS W=10u L=0.18u
M2 out_mid ref_mid 0 0 NMOS W=10u L=0.18u
M4 out ref_top out_mid 0 NMOS W=10u L=0.18u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
set hcopydevtype=svg
dc Vout 0 1.8 0.005
plot -i(vout) vs v(out) title "ch05_03 IOUT-VOUT"
hardcopy ../../results/ch05_03_cascode_current_mirror.svg -i(vout) vs v(out)
wrdata ../../results/ch05_03_cascode_current_mirror.dat v(out) i(vout) v(ref_mid) v(ref_top)
quit
.endc
.end

